US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-phenyl-ethyl)-amino]-propane dihydrochloride
This compound was prepared analogous to Example 5(b) by reacting 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane with N-methyl-2-phenyl-ethylamine.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-2-phenyl-ethylamine | CNCCC1=CC=CC=C1 | C9H13N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-phenyl-ethyl)-amino]-propane dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC=CC=C2)C)=O)C=C1OC | InChI=1S/C24H32N2O3.2ClH/c1-25(14-10-19-8-5-4-6-9-19)12-7-13-26-15-11-20-16-22(28-2)23(29-3)17-21(20)18-24(26)27;;/h4-6,8-9,16-17H,7,10-15,18H2,1-3H3;2*1H
